US08802853B2
Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (64 mg, 0.03 eq.), 4-iodoanisole (531 mg, 1.1 eq.), triethylamine (862 μL, 3.0 eq.), and copper (I) iodide (23.6 mg, 0.06 eq.) were added sequentially to a solution of 2-ethyl-1-(2-propynyl)-1H-imidazo[4,5-c]quinoline (485 mg, 2.06 mmol, 1.0 eq.) in DMF (10 mL). The reaction mixture was stirred at ambient temperature for 3 hour and then concentrated under reduced pressure. The residue was purified by column chromatography (silica gel eluting with 2/98 methanol/chloroform) to provide 0.34 g of 2-ethyl-1-[3-(4-methoxyphenyl)-2-propynyl]-1H-imidazo[4,5-c]quinoline as a clear oil that partially crystallized on standing.

reactant | 4-iodoanisole | 531 mg, 1.1 eq. | IC1=CC=C(C=C1)OC | C7H7IO
reactant | triethylamine | 862 μL, 3.0 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-ethyl-1-(2-propynyl)-1H-imidazo[4,5-c]quinoline | 2.06 mmol, 485 mg, 1.0 eq. | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC#C | C15H13N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 64 mg, 0.03 eq. | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | copper (I) iodide | 23.6 mg, 0.06 eq. | [Cu]I
product | 2-ethyl-1-[3-(4-methoxyphenyl)-2-propynyl]-1H-imidazo[4,5-c]quinoline | 0.34 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC#CC1=CC=C(C=C1)OC | C22H19N3O
